US07169789B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylphenyl}-N′-(4-fluorophenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylaniline (50 mg) was dissolved in chloroform (3 ml), and p-fluorophenyl isocyanate (22 μl) was then added to the solution. The mixture was heated under reflux overnight. The precipitated crystal was collected by filtration and was washed to quantitatively give the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylaniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)C | C17H17N3O3
reactant | p-fluorophenyl isocyanate | 22 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylphenyl}-N′-(4-fluorophenyl)urea | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)C | C24H21FN4O4
